Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Mr. ___ is a ___ man with HLD, tobacco use,
HTN, Crohn's disease, intraductal papillary mucinous neoplasm at
head of pancreas, prostate cancer s/p resection ___ who
presents with confusion. 

This morning, he was out playing golf when he went to the wrong
golf cart and tried to put his golf club in someone else's bag.
He seemed to have trouble walking and talking. Had a hard time
pushing his words out. When he had a thought, that thought 
seemed
to have disappeared. Happened at 10:30am. Friends brought him to
urgent care, and BP was reportedly low per wife who heard 
through
the phone (though pt says it was 133/99). Went to ___ to see
his PCP, who then sent him to the hospital. 

A similar episode happened yesterday while he was playing golf.
Episode lasted for 1hr. Had some urinary incontinence with this
episode, but thought this was a side effect from his prostate
cancer surgery earlier this year. Denied feeling anything odd
before the episode. No recent infections.

Wife reports that he has had intermittent bouts of confusion for
the last ___ years. For example, he owns his own ___ business
and gets confused when putting in transactions at times. Never
loses consciousness. 

Pt denies any odd smells or epigastric rising sensation. 
Endorses
feeling of de ___ ___ times per week. He has been on 
wellbutrin
450mg qd for the last 3+ years. He has not been sleeping much
recently. For example, the last 2 nights, he was going to bed
between ___ and getting up at ___. He drinks 6
beers/week and "does not go crazy with Manhattans." 
 
Past Medical History:
Crohn's Disease, HLD, colonic adenoma, HTN, prostate
cancer that went past the capsule without any known mets s/p
radical prostatectomy, multiple ruptured discs and cervical
spondylosis, anxiety, essential tremor, intraductal papillary
mucinous neoplasm at head of pancreas
 
Social History:
___
Family History:
no history of seizures (but pt mildly confused
when this was asked) 
 
Physical Exam:
Vitals:  T: 98.0F  HR: 72  BP: 127/91  RR: 18  SaO2: 99% RA
General:  NAD, flat affect
HEENT: NCAT,  no oropharyngeal lesions, neck supple
Pulmonary: breathing comfortably on RA
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented to self, hospital,
___. Able to relate history but with stuttering and halting
speech, very slow that improved over the course of 30 minutes.
Attentive, speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact. No
paraphasias. No dysarthria. No evidence of hemineglect. No
left-right confusion.  Able to follow both midline and
appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.

  [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham]  [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     -    - 
 R   5     5     5     5     5    5     5     5     -    -
  
- Sensory: No deficits to light touch or pin throughout

- Coordination: mild ataxia on FNF in LUE, HKS intact
bilaterally. 

- Gait: deferred

DISCHARGE PHYSICAL EXAM:
 - Mental status: Awake, alert, oriented to self, hospital,
___. Able to relate history fully. Attentive, speech is 
fluent with full sentences, intact repetition, and intact verbal 
comprehension. Naming intact. No paraphasias. No dysarthria. No 
evidence of hemineglect. No
left-right confusion.  Able to follow both midline and
appendicular commands. Delayed recall at 5 minutes ___ with 
category prompts.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. Mild postural tremor

  [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham]  [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    - 
 R   5     5     5     5     5    5     5     5     5    -
  
- Sensory: No deficits to light touch or pin throughout

- Coordination: FNF and HKS intact bilaterally

- Gait: deferred
 
Pertinent Results:
___ 07:05AM BLOOD WBC-4.0# RBC-4.32* Hgb-13.7 Hct-42.0 
MCV-97 MCH-31.7 MCHC-32.6 RDW-12.6 RDWSD-45.2 Plt ___
___ 07:05AM BLOOD Plt ___
___ 07:05AM BLOOD Glucose-77 UreaN-16 Creat-0.8 Na-147* 
K-4.3 Cl-108 HCO3-29 AnGap-10
___ 01:49PM BLOOD ALT-23 AST-38 AlkPhos-50 TotBili-0.3
___ 07:05AM BLOOD Calcium-8.9 Phos-4.0 Mg-2.3
___ 07:05AM BLOOD Vit___ Folate-11
___ 01:49PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:14PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 03:14PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 03:14PM URINE Color-Straw Appear-Clear Sp ___
___ 07:05AM BLOOD TSH-1.3
RPR negative

EEG ___
"This is a normal continuous video EEG monitoring study. There 
are no epileptiform discharges or electrographic seizures."

CTA H/N ___
"1. No large infarct or acute intracranial hemorrhage. 
2. Mild intracranial atherosclerosis, without stenosis.  A 2 mm 
outpouching near the origin of the left posterior communicating 
artery may reflect an infundibular origin versus a small 
aneurysm. 
3. Mild extracranial atherosclerosis, without stenosis of the 
carotid arteries by NASCET criteria.  There is moderate stenosis 
at the origin of the left vertebral artery. 
4. Uncovertebral and facet joint hypertrophy result in severe 
neural foraminal narrowing at multiple levels. "
 
Brief Hospital Course:
Admitted for lightheadedness and confusion. On further history, 
patient had not eaten breakfast and slept poorly (waking at at 
5:30 am for golf) and has had years of positional 
lightheadedness. Furthermore, he had previously had confusion in 
the setting of increased nortriptyline, which resolved after 
decrease of medications, per Atrius Neurology Records. He was 
dehydrated and positive orthostatics vitals (Lying: 135/92 HR 76 
--> Standing 110/77, HR 82), so he was given NS IVF. He had a 
normal EEG, and CTA head/neck. Differential for lightheadedness 
and confusion was likely dehydration; also possible medication 
polypharmacy (he is on propanolol). There was lower concern for 
dementia,  but labs were sent and pending at time of discharge. 
RPR, TSH, b12 wnl. There were no features to suggest ___ 
disease; he has a baseline essential tremor (no resting tremor) 

Chronic issues - Continued on current medications
Transitional issues - 
Follow up with outpatient neurology, EEG follow up final read 
and labs for reversible dementia. 
Follow up with outpatient PCP, consider discontinuation of some 
medications, such as propranolol
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO BID 
2. Simvastatin 40 mg PO QPM 
3. BuPROPion XL (Once Daily) 450 mg PO DAILY 
4. Celecoxib 200 mg oral BID 
5. Lisinopril 20 mg PO DAILY 
6. Nortriptyline 75 mg PO QHS 
7. Omeprazole 20 mg PO DAILY 
8. Zolpidem Tartrate 5 mg PO QHS 
9. Propranolol 20 mg PO BID:PRN tremor 

 
Discharge Medications:
1.  BuPROPion XL (Once Daily) 450 mg PO DAILY  
2.  Celecoxib 200 mg oral BID  
3.  Gabapentin 300 mg PO BID  
4.  Lisinopril 20 mg PO DAILY  
5.  Nortriptyline 75 mg PO QHS  
6.  Omeprazole 20 mg PO DAILY  
7.  Propranolol 20 mg PO BID:PRN tremor  
8.  Simvastatin 40 mg PO QPM  
9.  Zolpidem Tartrate 5 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Orthostatic Hypotension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted for lightheadedness and confusion. You were 
found to be dehydrated with blood pressure that drops upon 
standing. This is called orthostatic hypotension, which can 
occur when you have not had enough fluid or food intake and you 
stand up too quickly. This can also be seen in the setting of 
medications. 
Your EEG, a study of your brain activity, was preliminarily 
normal and did not show seizures.

Your medications were not changed. 

Please follow up with your outpatient neurologist and PCP. Your 
PCP may want to adjust your medications to prevent further 
episodes of orthostatic hypotension. 

Sincerely, 
THE ___ NEUROLOGY TEAM  
 
Followup Instructions:
___